US06281363B1
A solution of 1.25 g of 1,4-dicarbethoxypiperidine-4-carboxylic acid in 10 ml of dry tetrahydrofuran was cooled to ice temperature and was treated with 0.7 ml of N-ethylmorpholine then 0.7 ml of isobutyl chloroformate. The mixture was stirred at ice temperature for 20 minutes and then a solution of 0.59 g of sodium azide in 7 ml of water added. The mixture was stirred at ice temperature for 15 minutes and then at room temperature for a further 30 minutes. The mixture was then shaken with 20 ml of toluene and the toluene extract washed with a further portion of water and then with saturated sodium chloride solution. After drying over anhydrous magnesium sulphate the toluene solution was reduced to approximately half its volume and then heated at 100° C. for 1 hour. The toluene was evaporated and there was obtained 1.148 g of 1,4-dicarbethoxy-4-isocyanatopiperidine in the form of an oil.

reactant | 1,4-dicarbethoxypiperidine-4-carboxylic acid | 1.25 g | C(=O)(OCC)N1CCC(CC1)(C(=O)O)C(=O)OCC | C12H19NO6
reactant | N-ethylmorpholine | 0.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 0.59 g | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-dicarbethoxy-4-isocyanatopiperidine | 1.148 g | C(=O)(OCC)N1CCC(CC1)(N=C=O)C(=O)OCC | C12H18N2O5
